US05145967
N-(1-benzyl-4-piperidylidene)aniline
A 1000 ml round bottom flask affixed with a stirring bar, a Dean-Stark trap and a condenser was charged with 101.6 g of benzylpiperidone, 500 ml of toluene, 50 g of aniline and 500 mg of p-toluene sulfonic acid. The mixture was refluxed overnight. After removal of the solvent, the reaction mixture was poured into 600 ml of isopropyl ether. The resulting solution was filtered, and the filtrate concentrated and then vacuum distilled at 185°-190° C., 1.25 torr to obtain 91.9 g (about 65% yield) of product as a light yellow oil.

reactant | benzylpiperidone | 101.6 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | aniline | 50 g | NC1=CC=CC=C1 | C6H7N
catalyst | p-toluene sulfonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-benzyl-4-piperidylidene)aniline | 91.9 g, about 65% yield | C(C1=CC=CC=C1)N1CCC(CC1)=NC1=CC=CC=C1 | C18H20N2
